US07781478B2
To a solution of 1-cyclopropyl-6-methoxylindole (3.29 g, 17.6 mmol) in dry DMF (30 mL), at 0° C., is added chlorosulfonyl isocyanate (3.11 g, 1.91 mL, 22.0 mmol). After the addition, the mixture is stirred at room temperature for 2 h, followed by aqueous work-up. Chromatography (silica gel, hexanes/EtOAc, 9/1) furnishes 3-cyano-1-cyclopropyl-6-methoxyindole (3.05 g, 82%).

reactant | 1-cyclopropyl-6-methoxylindole | 17.6 mmol, 3.29 g | C1(CC1)N1C=CC2=CC=C(C=C12)OC | C12H13NO
reactant | chlorosulfonyl isocyanate | 22.0 mmol, 1.91 mL, 3.11 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-cyano-1-cyclopropyl-6-methoxyindole | 3.05 g, 82% | C(#N)C1=CN(C2=CC(=CC=C12)OC)C1CC1 | C13H12N2O
